US04397864
A solution of 3.0 g of 2-(4-fluorophenyl)-2-methylbutyric acid in 10 ml of tetrahydrofuran was added dropwise to a mixture of 20 ml of tetrahydrofuran and 0.5 g of lithium aluminum hydride at 40° C. The temperature was then elevated and the mixture was refluxed for 30 minutes. The mixture was cooled to room temperature and ethanol was added dropwise to the mixture to decompose excessive lithium aluminum hydride. Then, water was added to the mixture to complete the decomposition. The formed precipitate was removed by filtration and tetrahydrofuran was removed from the filtrate by distillation under reduced pressure. The residue was extracted with benzene, and the benzene extract was washed with water direct, over Na2SO4, and evaporated under reduced pressure to give 2.6 g of 2-(4-fluorophenyl)-2-methylbutyl alcohol.

reactant | 2-(4-fluorophenyl)-2-methylbutyric acid | 3.0 g | FC1=CC=C(C=C1)C(C(=O)O)(CC)C | C11H13FO2
reactant | lithium aluminum hydride | 0.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethanol | C(C)O | C2H6O
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(4-fluorophenyl)-2-methylbutyl alcohol | 2.6 g | FC1=CC=C(C=C1)C(CO)(CC)C | C11H15FO
